US04530929
Preparation of 2-nitro-1,3-benzenedimethanol
A solution of 2-nitro-1,3-benzenedicarboxylic acid (12.7 g, 0.06 mole) in tetrahydrofuran (60 ml) is cooled to 0° C. and 1N borane:tetrahydrofuran (300 ml, 0.3 mole) is added dropwise over one hour. The mixture is allowed to warm slowly to 25° C. and is stirred for 36 hours. Methanol (50 ml) is added slowly, the mixture is filtered and evaporated. The residue is dissolved in ethyl acetate (100 ml) and washed with water (25 ml), dried (MgSO4), filtered, and evaporated to yield a yellow solid. This is further purified by flash chromatography over silica (elution with 1:1 hexane:ethyl acetate) to afford after concentration pure 2-nitro-1,3-benzenedimethanol, mp 100°-101° C.

reactant | 2-nitro-1,3-benzenedicarboxylic acid | 0.06 mole, 12.7 g | [N+](=O)([O-])C1=C(C=CC=C1C(=O)O)C(=O)O | C8H5NO6
reactant | borane | 1N | B | BH3
reactant | Methanol | 50 ml | CO | CH4O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.3 mole, 300 ml | O1CCCC1 | C4H8O
product | 2-nitro-1,3-benzenedimethanol | [N+](=O)([O-])C1=C(C=CC=C1CO)CO | C8H9NO4
